US08334301B2
1-{4-(2-fluoropyridin-3-yl)-5-[(pyridin-2-yl)thio]thiophen-2-yl}-N-methylmethanamine
To a solution of 4-(2-fluoropyridin-3-yl)-5-[(pyridin-2-yl)thio]thiophene-2-carbaldehyde (270 mg) in tetrahydrofuran (2 mL) were added 40% methylamine-methanol solution (0.9 mL) and methanol (2 mL), and the mixture was stirred at room temperature for 2 days. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in methanol (3 mL), and sodium tetrahydroborate (222 mg) was added at 0° C. The mixture was stirred at room temperature for 1 day and concentrated under reduced pressure. A saturated aqueous sodium hydrogen carbonate solution was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound as a pale-yellow oil (yield 286 mg, yield quantitative).

reactant | 4-(2-fluoropyridin-3-yl)-5-[(pyridin-2-yl)thio]thiophene-2-carbaldehyde | 270 mg | FC1=NC=CC=C1C=1C=C(SC1SC1=NC=CC=C1)C=O | C15H9FN2OS2
reactant | methylamine methanol | 0.9 mL | CN.CO
reactant | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-{4-(2-fluoropyridin-3-yl)-5-[(pyridin-2-yl)thio]thiophen-2-yl}-N-methylmethanamine | yield 286 mg | FC1=NC=CC=C1C=1C=C(SC1SC1=NC=CC=C1)CNC | C16H14FN3S2
